US05504089
1,1,1-Trifluoro-2-(6-iodoquinazolin-4-one-2-yl)-propan-2 -ol
A solution of N-(2-carboxy-4-iodophenyl)-3,3,3-trifluoro-2-hydroxy-2-methylpropanamide (5 g) and formamide (5 mL) was stirred and heated at 190°-200° C. for 3 hours. The cooled reaction mixture was poured into brine (150 mL) and extracted with ethyl acetate. The ethyl acetate solution was dried (Na2SO4) and evaporated. Chromatography, eluting with ethyl acetate, gave the title compound (2.86 g) as a white solid; mp 205°-207° C.; NMR: 1.75 (s,3), 7.48 (d,1), 7.5 (s,1), 8.13 (d,1), 8.42 (s,1), 12.05 (s,1); MS: m/z=385(M+1). Analysis for C11H8F3IN2O2 : Calculated: C, 34.40; H, 2.10; N, 7.29; Found: C, 34.48; H, 2.09; N, 7.26.

reactant | N-(2-carboxy-4-iodophenyl)-3,3,3-trifluoro-2-hydroxy-2-methylpropanamide | 5 g | C(=O)(O)C1=C(C=CC(=C1)I)NC(C(C(F)(F)F)(C)O)=O | C11H9F3INO4
reactant | formamide | 5 mL | C(=O)N | CH3NO
solvent | brine | 150 mL | [Cl-].[Na+].O
product | 1,1,1-Trifluoro-2-(6-iodoquinazolin-4-one-2-yl)-propan-2 -ol | 2.86 g | FC(C(C)(O)C1=NC2=CC=C(C=C2C(N1)=O)I)(F)F | C11H8F3IN2O2
